* Independently authored Bench measurements; SPDX-License-Identifier: MIT
.lib /workspace/support/models/cornerMOSlv.lib mos_tt
.lib /workspace/support/models/cornerRES.lib res_typ
.include dut.spice
.include parameters.spice
.temp 27
.options reltol=1e-6 abstol=1e-13 vntol=1e-9
VDD vdd 0 1.5
VSS vss 0 0
VA port_a 0 {common_v+.005*direction}
VB port_b 0 {common_v-.005*direction}
VCTL vctl 0 1.5
VNOT vctl_not 0 0
XDUT port_a port_b vctl vctl_not vdd vss sw_001_transmission_gate_pair
.control
set numdgt=15
set measdgt=15
op
let on_current_a=abs(i(va))
let ron_ohm=abs((v(port_a)-v(port_b))/i(va))
let kcl_a=abs(i(va)+i(vb)+i(vdd)+i(vss)+i(vctl)+i(vnot))
print on_current_a ron_ohm kcl_a
write op.raw all
alter VCTL 0
alter VNOT 1.5
op
let leakage_a=abs(i(va))
print leakage_a
write off.raw all
quit
.endc
.end
